US06225320B1
3-Bromo-2-chloro-5-(2-trifluoromethylimidazol-1-yl)pyridine
3-Bromo-2-chloro-5-trifluoroacetamidopyridine (0.53 g, 1.75 mmol) and triphenylphosphine (550 mg, 2.10 mmol) in carbon tetrachloride (50 ml) was refluxed for 16 hrs and then cooled to 0° C. Aminoacetaldehyde diethyl acetal (0.25 ml, 1.72 mmol) was added and the mixture stirred at 0° C. for 1 hr, then at 22° C. for 2 hrs. After concentration in vacuo, acetic acid (4 ml) was added and the mixture refluxed for 7 hrs, then cooled. Ethyl acetate (20 ml) was added and the resulting solution was washed with sodium hydroxide solution (50 ml, 2M) and brine (50 ml) before being dried (MgSO4) and concentrated. The residue was purified by silica chromatography to give the product as yellow solid (104 mg).

reactant | 3-Bromo-2-chloro-5-trifluoroacetamidopyridine | 1.75 mmol, 0.53 g | BrC=1C(=NC=C(C1)NC(C(F)(F)F)=O)Cl | C7H3BrClF3N2O
reactant | triphenylphosphine | 2.10 mmol, 550 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Aminoacetaldehyde diethyl acetal | 1.72 mmol, 0.25 ml | C(C)OC(CN)OCC | C6H15NO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-2-chloro-5-(2-trifluoromethylimidazol-1-yl)pyridine | 104 mg | BrC=1C(=NC=C(C1)N1C(=NC=C1)C(F)(F)F)Cl | C9H4BrClF3N3
